US07342115B2
Step 1. Preparation of 6-(2,6-Diethyl-phenyl)-2,4-dimethyl-nicotinic acid ethyl ester
A mixture of 4-chloro-6-(2,6-diethyl-phenyl)-2-methyl-nicotinic acid ethyl ester (0.49 g, 1.5 mmol), methylboronic acid (1.8 g, 29 mmol), and tetrakis(triphenylphosphine)palladium (0.086 g, 0.074 mmol) in toluene (30 mL) is stirred for 10 minutes under N2 atmosphere. A solution of sodium carbonate (6.3 g, 59 mmol) in water (20 mL) is added and the mixture is heated at 100° C. for 48 hours. After cooling to room temperature, the reaction mixture is diluted with water (20 mL) and extracted with EtOAc. The combined extracts are washed with saturated brine, dried (Na2SO4), and concentrated in vacuo. The residue is purified by flash chromatography (elution with hexane/EtOAc 20/1) to give 6-(2,6-diethyl-phenyl)-2,4-dimethyl-nicitinic acid ethyl ester as a colorless oil: 1H NMR (CDCl3) 7.27 (dd, 1H), 7.12 (d, 2H), 6.96 (s, 1H), 4.47 (q, 2H), 2.60 (s, 3H), 2.38 (s, 3H), 2.36-2.28 (m, 4H), 1.45 (t, 3H), 1.05 (t, 6H).

reactant | 4-chloro-6-(2,6-diethyl-phenyl)-2-methyl-nicotinic acid ethyl ester | 1.5 mmol, 0.49 g | C(C)OC(C1=C(N=C(C=C1Cl)C1=C(C=CC=C1CC)CC)C)=O | C19H22ClNO2
reactant | methylboronic acid | 29 mmol, 1.8 g | CB(O)O | CH5BO2
reactant | sodium carbonate | 59 mmol, 6.3 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 mL | O | H2O
solvent | water | 20 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.074 mmol, 0.086 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(2,6-Diethyl-phenyl)-2,4-dimethyl-nicotinic acid ethyl ester | C(C)OC(C1=C(N=C(C=C1C)C1=C(C=CC=C1CC)CC)C)=O | C20H25NO2
